2198-05-07 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -lasix 40 mg IV @ 0100 -> 930 UOP, -650 balance @ 0700
   -cont'd statin but discussed changing to cholestyramine if pt refuses
   -changed PPI to H2 blocker
   -PT C/S placed
   -[**3-13**] CP @ 1300 w/ worsening STD V2-V6; started heparin gtt and nitro
   gtt->pain resolved, STD improved; cardiac markers cont. to trend down
   -nitro gtt weaned off
   -delirious/disoriented O/N, refused zyprexa zydis, responded to haldol
   2 mg IV
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   CiprofloxacinUnknown;
   TrimethoprimUnknown;
   Bactrim (Oral) Rash;
   AtenololLightheadedness
   Crestor (Oral) (Rosuvastatin Calcium)
   Unknown;
   Zetia (Oral) (Ezetimibe) Unknown;
   Vicodin (Oral) Unknown;
   CephalexinUnknown;
   AmlodipineLightheadedness
   QuinaprilLightheadedness
   SpironolactoneUnknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-5-6**] 08:15 AM
   Other medications:
   Changes to medical and family history: per pt
s wife, takes omeprazole
   for GERD, no h/o GIB/PUD
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies fever, chills, sweats, cp, palp, cough, sob,
   abd pain, n/v, diarrhea, dysuria
   Flowsheet Data as of  [**2198-5-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 68 (67 - 87) bpm
   BP: 101/56(66) {70/44(51) - 126/80(88)} mmHg
   RR: 26 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,382 mL
                                                                    202 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    662 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    520 mL
   Urine:
                                                                  1,765 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -383 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 97%
   Physical Examination
   GEN: Appears well
   HEENT: anicteric, MMM
   CV: reg rate nl S1S2 II/VI holosystolic murmur @ LUSB no rub/gallop
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry no edema, RUE/LLE incisions c/d/I w/o erythema/drainage
   Labs / Radiology
   154 K/uL
   11.3 g/dL
   99 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   26 mg/dL
   99 mEq/L
   136 mEq/L
   33.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2198-5-5**]  02:12 PM
                             [**2198-5-6**]  03:43 AM
                             [**2198-5-6**]  05:40 PM
                             [**2198-5-7**]  05:02 AM
   WBC
   14.7
   12.7
   10.3
   9.6
   Hct
   42.7
   38.3
   37.6
   33.8
   Plt
   [**Telephone/Fax (3) 8938**]54
   Cr
   1.7
   1.7
   1.6
   1.4
   TropT
   8.83
   Glucose
   134
   109
   99
   Other labs: PT / PTT / INR:14.0/49.5/1.2, CK / CKMB /
   Troponin-T:162/30/8.83, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   70 M w/ CAD s/p CABG, diastolic heart failure, severe PVD admitted for
   fem-[**Doctor Last Name 114**] bypass p/w post-op posterior STEMI & acute on CHF, s/p PCI.
   .
   #STEMI: acute occlusion of SVG-OM1 with placement 2 BMS; TTE showed new
   regional WMA inferolateral akinesis, LVEF 40-45%; ongoing chest pain
   assoc w/ STD c/f recurrent graft occlusion despite cardiac markers
   trending down
   -plan for cath today, pretreatment w/ mucomyst and NaHCO3
   -nitro gtt until pain free, then wean as tolerated
   -cont heparin gtt
   -cont ASA, plavix
   -uptitrate BB, ACEi for futher afterload reduction given possible
   mitral valve involvement
   -cont simvastatin, monitor for ADR; consider cholestyramine as
   alternative to statin therapy
   .
   #Acute on chronic diastolic/acute systolic CHF
neg 3L LOS, oxygen req.
   improving
   -diuresis goal even to 500mL neg
   -wean O2 as tolerated
   -atrovent nebs prn
   .
   #Delirium
 suspect ICU delirium but cannot exclude toxic
   encephalopathy although not febrile, no leukocytosis
   -check U/A, CXR
   -haldol prn
   -bed alarm
   .
   #HTN
 cautious with antihypertensives as BP borderline
   -cont current regimen w/ holding parameters
   -cont captopril
   .
   # Rhythm
   -telemetry
   .
   # PVD s/p fem-[**Doctor Last Name 114**] bypass
 s/p L SFA-PT (R cephalic graft) on [**5-4**]
   - vascular following
   .
   # Hypercholesterolemia
 poorly controlled
   -statin therapy for now pending further d/w pt
   -consider cholestyramine
   .
   # CKD
 Cr @ baseline
   - continue to monitor creatinine and urine output
   -mucomyst/bicarb prior to cath
   .
   # OSA - has history and home CPAP machine with him
   -CPAP qhs
   .
   # FEN/GI
low Na diet, bowel regimen, replete lytes prn
   .
   # PPX
 heparin gtt, IS, H2 blocker
   .
   # Access
 RIJ, PIV
   .
   # Code - Full Code
   ------ Protected Section ------
   I have reviewed the above progress note on [**2198-5-7**] at 08:40 AM by
   Dr. [**Last Name (STitle) **] and have reviewed the history with the patient and his family,
   and the physical examination noted above is consistent with my own
   today.  I concur with the assessment and treatment plan as outline
   above.   Mr. [**Known lastname 8912**] is a 70 year old man who developed a posterior
   STEMI following vascular surgery repair of his left popliteal
   aneurysm.  Cardiac catheterization demonstrated a thrombotic occlusion
   of the SVG to the OMB and two bare metal stent were placed.  He
   received aspirin, plavix and integrillin.  He developed recurrent
   nausea immediately after the procedure associated with persistent ST
   depressions, but this resolved.  Over the past 24 hours, he had one
   episode of pain but has been painfree today.  Our plan is outlined
   above and we will continue his continuation of his aspirin and
   clopidogrel.  This plan was communicated with the patient and his wife
   and all questions were addressed.  We will monitor his closely for any
   nocturnal disorientation.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD Cell [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2198-5-7**] 20:58 ------

2198-05-08 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -weaned off nitro gtt; remained chest pain free therefore heparin gtt
   was dc'ed and diet restarted. no recurrent episodes of chest pain
   -CXR showed possible, but given that he remained afebrile with no white
   count, will monitor clinically
   -I/O check @ 1800 -1400cc
   -uptitrated imdur to 60mg PO BID
   -uptitrated metoprolol from 12.5 --> 25mg TID
   -OOB to chair during day, remained oriented when wife present
   throughout day
   -hct trending down 41.9 on admission to 32.6, typed and crossed
   Allergies:
   Lipitor (Oral) Arthralgia/Arth
   Ciprofloxacin Unknown;
   Trimethoprim Unknown;
   Bactrim (Oral) Rash;
   Atenolol Lightheadedness
   Crestor (Oral) Unknown;
   Zetia (Oral) (Ezetimibe)Unknown;
   Vicodin (Oral) Unknown;
   Cephalexin Unknown;
   Amlodipine Lightheadedness
   Quinapril Lightheadedness
   Spironolactone Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2198-5-7**] 08:00 AM
   Furosemide (Lasix) - [**2198-5-7**] 01:10 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels well.  Denies chest pain or pressure, SOB,
   nausea, f/chills.  Tol POs.  Had BM yesterday.  No significant pain at
   incisions.
   Flowsheet Data as of  [**2198-5-8**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 64 (61 - 95) bpm
   BP: 106/66(75) {83/43(52) - 151/79(93)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    528 mL
                                                                    258 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    288 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    210 mL
   Urine:
                                                                  2,330 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,802 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: 3L
   SpO2: 98%
   Physical Examination
   GEN: Appears well A&Ox3
   HEENT: anicteric, MMM
   CV: reg rate nl S1S2 II/VI murmur @ LUSB no rub/gallop
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry no edema, PT palpable bilat., RUE/LLE incisions c/d/I
   w/o erythema/drainage
   Labs / Radiology
   193 K/uL
   10.8 g/dL
   106 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   32 mg/dL
   99 mEq/L
   136 mEq/L
   32.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2198-5-5**]  02:12 PM
                             [**2198-5-6**]  03:43 AM
                             [**2198-5-6**]  05:40 PM
                             [**2198-5-7**]  05:02 AM
                             [**2198-5-7**]  11:20 PM
   WBC
   14.7
   12.7
   10.3
   9.6
   Hct
   42.7
   38.3
   37.6
   33.8
   32.6
   Plt
   [**Telephone/Fax (3) 8938**]54
   Cr
   1.7
   1.7
   1.6
   1.4
   1.5
   TropT
   8.83
   Glucose
   134
   109
   99
   Other labs: PT / PTT / INR:14.0/55.0/1.2,
   CK / CKMB / Troponin-T:130/8/7.04,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   70 M w/ CAD s/p CABG, diastolic heart failure, severe PVD admitted for
   fem-[**Doctor Last Name 114**] bypass p/w post-op posterior STEMI s/p PCI & acute on chronic
   diastolic and acute systolic CHF.
   .
   #STEMI: acute occlusion of SVG-OM1 with placement 2 BMS; TTE showed new
   regional WMA inferolateral akinesis, LVEF 40-45%; chest pain-free
   -cont ASA, plavix
   -uptitrate BB, ACEi for further afterload reduction
   -incr. to simvastatin 80 mg, monitor for ADR; could consider
   cholestyramine as alternative to statin therapy
   .
   #Acute on chronic diastolic/acute systolic CHF -4.7L LOS, oxygen req.
   improving, appears more euvolemic
   -diuresis goal -500 to -1000 neg
   -wean O2 as tolerated
   -atrovent nebs prn
   .
   #HTN
 cautious with antihypertensives as BP borderline
   -cont current regimen w/ holding parameters
   -convert captopril to lisinopril
   .
   # Rhythm
   -telemetry
   .
   # PVD s/p fem-[**Doctor Last Name 114**] bypass
 s/p L SFA-PT (R cephalic graft) on [**5-4**]
   -appreciate vascular f/u
   .
   # Hypercholesterolemia
 poorly controlled
   -statin therapy for now pending further d/w pt
   -consider addition of cholestyramine
   .
   # CKD
 Cr @ baseline
   -continue to monitor Cr, UOP
   .
   # OSA - home CPAP machine with him
   -CPAP qhs
   .
   # FEN/GI
low Na diet, bowel regimen, replete lytes prn
   .
   # PPX
 SQH, IS, H2 blocker
   .
   # Access
 PIV; d/c R IJ
   .
   # Code - Full Code
   .
   #Dispo
 call out to floor
   ------ Protected Section ------
   I have reviewed the above progress note on [**2198-5-8**] by Dr. [**Last Name (STitle) **] and
   have reviewed the history with the patient and his family, and the
   physical examination noted above is consistent with my own today.  I
   concur with the assessment and treatment plan as outline above.   Mr.
   [**Known lastname 8912**] is a 70 year old man who developed a posterior STEMI
   following vascular surgery repair of his left popliteal aneurysm.  A
   perioperative MI complicated the procedure and two bare metal stent
   were placed into an occluded SVG to the OMB.  Although he had slight
   pain after the pocedure, he has been painfree for the past 24 hours and
   is up in a chair without difficulty.  An increase in the frequency of
   his beta blocker has resulted in a short sinus pause and this will be
   managed with reducing the frequency of his beta blocker.  This plan was
   communicated with the patient and his wife and all questions were
   addressed.  According to his wife, he has not had any further nocturnal
   disorientation.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**], MD Cell [**Telephone/Fax (1) 8924**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2198-5-8**] 15:05 ------